US05401772
3,5-Dimethyl-4-(3'-isopropyl-4'-benzyloxyphenoxy)-nitrobenzene, (2.86 kg, 7.31 mol) is dissolved in a mixture of ethanol/tetrahydrofuran (10:1, 114L) and cooled to 10°. This is admixed with 10% Pd/C (800g) and the system is pressurized to 15 psi with hydrogen gas. The hydrogenation is continued for 18 hours. The mixture is then filtered through Celite and the Celite is washed with tetrahydrofuran (30 L). The filtrate is then evaporated in vacuo to dryness (50°, 3 Torr). The solid residue is triturated with heptane (3L) and filtered. The filter cake is washed with heptane (2×500 mL) to obtain crude product which is then dissolved in hot ethyl acetate (14 L) and diluted with heptane (30 L). The product slowly precipitates and the mixture is cooled at 10°for 1 hour, collected by filtration and washed with ethyl acetate/hexane 1:2 (2×500 mL). The filter cake is then dried (60°, 3 Torr) for 24 hours to yield 3,5-dimethyl4-(3'-isopropyl-4'-hydroxyphenoxy)-aniline, m.p. 180°-181°.

reactant | 3,5-Dimethyl-4-(3'-isopropyl-4'-benzyloxyphenoxy)-nitrobenzene | 7.31 mol, 2.86 kg | CC=1C=C(C=C(C1OC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)C)C)[N+](=O)[O-] | C24H25NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol tetrahydrofuran | C(C)O.O1CCCC1
solvent | ethyl acetate | 14 L | C(C)(=O)OCC | C4H8O2
solvent | heptane | 30 L | CCCCCCC | C7H16
catalyst | Pd/C | [Pd] | Pd
product | 3,5-dimethyl4-(3'-isopropyl-4'-hydroxyphenoxy)-aniline | CC=1C=C(N)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)C | C17H21NO2
